US07169791B2
N-[4-Methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoyl]-4-[(4-methyl-1-piperazinyl)methyl]benzeneamine
A solution containing ˜50% of propylphosphonic anhydride in N,N-dimethylformamide (Fluka, Buchs, Switzerland; 875 μL, ˜1.5 mmol) is added within 20 minutes to a stirred mixture of 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid (306 mg, 1.0 mmol), 4-[(4-methyl-1-piperazinyl)methyl]benzeneamine (Chem. Abstr. Reg. Number: 70261-82-4; 205 mg, 1.0 mmol) and triethylamine (83 μL, 6.0 mmol) in 8 mL N,N-dimethylformamide. After stirring for 24 hours at room temperature, the mixture is treated with a saturated aqueous ammonium chloride and extracted three times with ethyl acetate. The solvent is evaporated off under reduced pressure and the residue dried in vacuo. The crude product is crystallised from ethanol-ethyl acetate to give the title compound as a crystalline solid, m.p. 153–155° C.

reactant | propylphosphonic anhydride | CCCP(=O)=O | C3H7O2P
reactant | 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid | 1.0 mmol, 306 mg | CC1=C(C=C(C(=O)O)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C17H14N4O2
reactant | 4-[(4-methyl-1-piperazinyl)methyl]benzeneamine | 1.0 mmol, 205 mg | CN1CCN(CC1)CC1=CC=C(C=C1)N | C12H19N3
reactant | triethylamine | 6.0 mmol, 83 μL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | ˜1.5 mmol, 875 μL | CN(C=O)C | C3H7NO
product | N-[4-Methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoyl]-4-[(4-methyl-1-piperazinyl)methyl]benzeneamine | CC1=C(C=C(C(=O)NC2=CC=C(C=C2)CN2CCN(CC2)C)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C29H31N7O
